US09446059B2
A slurry of zinc (47.0 g, 719 mmol) and DMF (325 ml) was stirred in a 2 L 3-neck round-bottom flask with magnetic stirring. The gray slurry was cooled to 16° C. in an ice bath and iodine (7.60 g, 29.9 mmol) was added (yellow to clear supernatant immediately with exotherm from 16 to 27° C.). Cooled back to 10° C. and added (R)-benzyl 2-(((benzyloxy)carbonyl)amino)-3-iodopropanoate (105 g, 240 mmol) portionwise over 10 min at <25° C. After an additional 10 min between 20 and 25° C., LCMS showed complete zinc insertion (aliquot 2N HCl quench). Added Pd2(dba)3 (0.457 g, 0.499 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.410 g, 0.998 mmol), and 2-(benzyloxy)-4-iodophenol (65.1 g, 200 mmol) in one portion (no exotherm) and stirred at room temperature (start=2:30). After 1 h, an exotherm to 27° C. was observed, so cooled in a room temperature water bath back to 20-25° C. and stirred overnight. After 15 h, 40 min, LC-MS showed complete and clean reaction. Added MTBE (650 mL) and silica (65 g), stirred 15 min, and filtered the gray slurry, washing the gray solid with MTBE (325+130 mL). Washed the yellow filtrate with satd aq NH4Cl (325 mL, temp to 27° C. with a small amount of H2 evolution, at pH ˜5-6) and brine (130 mL), dried (Na2SO4), conc, and FCC (800 g column, 50-100% DCM/heptanes, then to 10% MTBE/DCM; only separating non-polar highly colored impurities and baseline material, upgrading HPLC pa % from 91 to 93 pa %) gave (S)-benzyl 3-(3-(benzyloxy)-4-hydroxyphenyl)-2-(((benzyloxy)carbonyl)amino)propanoate (106 g, 207 mmol, 104% yield) as a light brown oil. 1H NMR showed extra mass primarily CBz alanine Bn ester from protonation of excess alkylzinc during workup. Used without further purification in the next step, assuming quantitative yield. 1H NMR (501 MHz, DMSO-d6) δ 8.86 (s, 1H), 7.80 (d, J=8.0 Hz, 1H), 7.47-7.41 (m, 2H), 7.41-7.08 (m, 13H), 6.94 (d, J=2.0 Hz, 1H), 6.70 (d, J=8.0 Hz, 1H), 6.63 (dd, J=8.0, 1.9 Hz, 1H), 5.15-4.93 (m, 6H), 4.27 (ddd, J=9.7, 7.9, 5.5 Hz, 1H), 2.93 (dd, J=13.8, 5.5 Hz, 1H), 2.78 (dd, J=13.8, 9.8 Hz, 1H). MS (ESI) m/z 512 [M+H]+.

reactant | DMF | 325 ml | CN(C)C=O | C3H7NO
reactant | iodine | 29.9 mmol, 7.60 g | II | I2
reactant | (R)-benzyl 2-(((benzyloxy)carbonyl)amino)-3-iodopropanoate | 240 mmol, 105 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CI | C18H18INO4
reactant | 2-(benzyloxy)-4-iodophenol | 200 mmol, 65.1 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)O | C13H11IO2
catalyst | zinc | 719 mmol, 47.0 g | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.499 mmol, 0.457 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.998 mmol, 0.410 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | MTBE | 650 mL | CC(C)(C)OC | C5H12O
product | (S)-benzyl 3-(3-(benzyloxy)-4-hydroxyphenyl)-2-(((benzyloxy)carbonyl)amino)propanoate | 207 mmol, 106 g, 104% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1O)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C31H29NO6
